US07399774B2
5-(8-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide
Combine 7-hydroxy-1-tetralone (J. Med. Chem. (1998), 41(7), 1068-1083), (3.37 g, 20.7 mmol), 6-chloronicotinamide (available from Aldrichj Chemical Company, Milwaukee, USA) (2.95 g, 18.8 mmol, K2CO3 (3.91 g, 28.3 mmol), DMA (dimethylacetamide) (45 ml) and toluene (25 ml) in a round bottom flask, equipped with Dean-Stark trap, condenser, and nitrogen inlet. Reflux the suspension for 2-3 hours before cooling to ambient temperature. Remove the solids via filtration, wash solids with EtOAc, and concentrate the filtrate/wash on a rotary evaporator. Dissolve the remaining oil in EtOAc, wash with water (2×) and brine, dry (MgSO4) and concentrate. Triturate the resulting brown solid with boiling EtOAc, cool, and collect solid via filtration to give 4.76 g of the title compound as a yellow solid. Mass spectrum (ion spray): m/z=283 (M+1); 1HNMR (DMSO-d6): 8.56 (s, 1H), 8.25 (d, 1H), 8.02 (s, 1H), 7.52 (s, 1H), 7.48 (s, 1H), 7.42 (d, 1H), 7.35 (d, 1H), 7.12 (d, 1H), 2.95 (t, 2H), 2.60 (t, 2H), 2.05 (m, 2H).

reactant | 7-hydroxy-1-tetralone | 20.7 mmol, 3.37 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | 6-chloronicotinamide | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 28.3 mmol, 3.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMA | 45 ml | CC(=O)N(C)C | C4H9NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(8-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | 4.76 g | O=C1CCCC=2C=CC(=CC12)OC=1C=NC=C(C(=O)N)C1 | C16H14N2O3
